US06608052B2
1-Amino-4-[3-(morpholin-4-yl)phenyl]naphthalene
The above intermediate (1.49 g, 3.51 mmol) and 1-amino-4-bromonaphthalene (0.69 g, 3.11 mmol) were dissolved in 20 mL anhydrous 1,4-dioxane in a sealable tube under inert gas atmosphere. The solution was degased and purged with nitrogen (2×). Tetrakis(triphenylphosphine)palladium(O) (0.21 g, 0.18 mmol) was added and the solution was degassed and purged with nitrogen again (2×). The tube was sealed and heated to 100° C. for 17 h. After cooling to room temperature the mixture was diluted with EtOAc, saturated aqueous potassium carbonate solution (10 mL) was added and the mixture was stirred for 1 h at room temperature. The mixture was filtered over diatomaceous earth and the layers were separated. The aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried (Na2SO4), filtered and evaporated to dryness. Purification of the residue by flash chromatography afforded 0.363 g (1.19 mmol, 38%) of title compound.

reactant | 1-amino-4-bromonaphthalene | 3.11 mmol, 0.69 g | NC1=CC=C(C2=CC=CC=C12)Br | C10H8BrN
reactant | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(O) | 0.18 mmol, 0.21 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 1-Amino-4-[3-(morpholin-4-yl)phenyl]naphthalene | 1.19 mmol, 0.363 g, 38% | NC1=CC=C(C2=CC=CC=C12)C1=CC(=CC=C1)N1CCOCC1 | C20H20N2O
